US06831175B2
(2S)-2-tert-Butoxycarbonylamino-3-(5-hydroxy-1H-indol-3-yl)-propionic acid methyl ester
To a solution of BOC-5-hydroxy-tryptophan (5.9 g, 18.4 mmol) and iodomethane (3.43 mL) in DMF (80 mL) was added powered KHCO3 (3.68 g). The reaction mixture was stirred at rt for 4 hours. EtOAc (500 mL) was added and the mixture was washed with brine (500 mL) and water (500 mL). The organic phase was concentrated and the residual oil was triturated with CH2Cl2 (20 mL). The formed white solid was collected by filtration, washed with CH2Cl2 (20 mL) and dried to give the desired product (4.48 g, 73%). MS (DCI) m/z 335 (M+1)+.

reactant | BOC-5-hydroxy-tryptophan | 18.4 mmol, 5.9 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=C(C=C12)O)C(=O)O | C16H20N2O5
reactant | iodomethane | 3.43 mL | IC | CH3I
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (2S)-2-tert-Butoxycarbonylamino-3-(5-hydroxy-1H-indol-3-yl)-propionic acid methyl ester | 4.48 g, 73% | COC([C@H](CC1=CNC2=CC=C(C=C12)O)NC(=O)OC(C)(C)C)=O | C17H22N2O5
